US06680313B2
b) 7-(2-t-Butyldimethylsilyloxyethyl)thio-2-(tri-n-butylstannyl)imidazo[5,1-b]thiazole
Tri-n-butylstannyl chloride (1.79 ml) and 13.2 ml of a 1.0 N lithiumbis(trimethylsilyl)amide/THF solution were added to a solution of 1.734 g of 7-(2-t-butyldimethylsilyloxyethyl)thioimidazo[5,1-b]thiazole in 60 ml of THF at −40° C. under an argon atmosphere, and the mixture was stirred at that temperature for one hr. An aqueous ammonium chloride solution was added to the reaction solution. The mixture was extracted with ethyl acetate, followed by washing with brine. The organic layer was dried over anhydrous magnesium sulfate. The solvent was then removed by distillation, and the residue was purified by column chromatography on silica gel (hexane:ethyl acetate=3:1) to prepare 2.784 g of the title compound.

reactant | Tri-n-butylstannyl chloride | 1.79 ml | C(CCC)[Sn](CCCC)(CCCC)Cl
reactant | lithiumbis(trimethylsilyl)amide THF | 1.0 N | C[Si](C)(C)[N-][Si](C)(C)C.[Li+].C1CCOC1
reactant | 7-(2-t-butyldimethylsilyloxyethyl)thioimidazo[5,1-b]thiazole | 1.734 g | [Si](C)(C)(C(C)(C)C)OCCSC=1N=CN2C1SC=C2 | C13H22N2OS2Si
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 60 ml | C1CCOC1 | C4H8O
product | 7-(2-t-Butyldimethylsilyloxyethyl)thio-2-(tri-n-butylstannyl)imidazo[5,1-b]thiazole | [Si](C)(C)(C(C)(C)C)OCCSC=1N=CN2C1SC(=C2)[Sn](CCCC)(CCCC)CCCC | InChI=1S/C13H21N2OS2Si.3C4H9.Sn/c1-13(2,3)19(4,5)16-7-9-17-11-12-15(10-14-11)6-8-18-12;3*1-3-4-2;/h6,10H,7,9H2,1-5H3;3*1,3-4H2,2H3;
